US08975400B2
3-fluoro-4-(3,4,5-trifluorophenoxy)benzaldehyde
The title compound was prepared by a procedure similar to that described for D4 starting from 3,4-difluorobenzaldehyde and 3,4,5-trifluorophenol.

reactant | 3,4-difluorobenzaldehyde | FC=1C=C(C=O)C=CC1F | C7H4F2O
reactant | 3,4,5-trifluorophenol | FC=1C=C(C=C(C1F)F)O | C6H3F3O
product | 3-fluoro-4-(3,4,5-trifluorophenoxy)benzaldehyde | FC=1C=C(C=O)C=CC1OC1=CC(=C(C(=C1)F)F)F | C13H6F4O2
